US04125729
Methyl α-Bromo-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 1.38 g of methyl α-[p-(p-chlorophenoxy)phenyl]acetate in 15 ml of carbon tetrachloride is added 0.92 g of N-bromosuccinimide and a small drop of concentrated HBr. The mixture is maintained at reflux for 72 hours and cooled to room temperature. Filtration through 50 g of aluminum oxide, evaporation of the solvent and bulb-to-bulb distillation of the residue (166° at 0.05 mm) affords the product as a colorless oil.

reactant | methyl α-[p-(p-chlorophenoxy)phenyl]acetate | 1.38 g | ClC1=CC=C(OC2=CC=C(C=C2)CC(=O)OC)C=C1 | C15H13ClO3
reactant | N-bromosuccinimide | 0.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HBr | Br | BrH
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl α-Bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
